US06346527B1
To a mixture of sodium ethoxide (1.7 ml, 20% in ethanol) and dichlorobis(triphenylphosphine)palladium(II) (14 mg) in dichloromethane (7 ml) was added a mixture of ethyl 2,3-dihydro-9-iodo-1-benzoxepin-4-carboxylate (0.69 g) and ethyl formate (0.28 ml) at ambient temperature under nitrogen atmosphere. The reaction mixture was stirred at 40° C. for 3 hours and filtered off. The filtrate was partitioned between diethyl ether and 1N hydrochloric acid. The organic layer was washed successively with saturated aqueous sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was purified by medium pressure liquid chromatography (silica gel) using a mixture of ethyl acetate and n-hexane (1:19) as an eluent to give a solid of ethyl 2,3-dihydro-9-ethoxycarbonyl-1-benzoxepin-4-carboxylate (120 mg).

reactant | sodium ethoxide | 1.7 ml | [O-]CC.[Na+]
reactant | ethyl 2,3-dihydro-9-iodo-1-benzoxepin-4-carboxylate | 0.69 g | IC1=CC=CC=2C=C(CCOC21)C(=O)OCC | C13H13IO3
reactant | ethyl formate | 0.28 ml | C(=O)OCC | C3H6O2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | ethyl 2,3-dihydro-9-ethoxycarbonyl-1-benzoxepin-4-carboxylate | 120 mg | C(C)OC(=O)C1=CC=CC=2C=C(CCOC21)C(=O)OCC | C16H18O5
